US07935703B2
2-Benzyloxy-1-[4-(2,4-dichloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-ethanone
A solution of 2-benzyloxy-1-[4-(2,4-dichloro-phenyl)-4-hydroxy-piperidin-1-yl]-ethanone (0.035 g, 0.09 mmol) in trifluoroacetic acid (1 mL) was stirred at RT for 48 h. Ethyl acetate (2 mL) and saturated aqueous sodium bicarbonate (2 mL) were added and the layers were separated. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The isolated residue was chromatographed on silica gel using dichloromethane/ethyl acetate to 100% to 90% dichloromethane in a gradient fashion, to give the title compound as a gum (0.0094 g, 28%).

reactant | 2-benzyloxy-1-[4-(2,4-dichloro-phenyl)-4-hydroxy-piperidin-1-yl]-ethanone | 0.09 mmol, 0.035 g | C(C1=CC=CC=C1)OCC(=O)N1CCC(CC1)(O)C1=C(C=C(C=C1)Cl)Cl | C20H21Cl2NO3
reactant | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Benzyloxy-1-[4-(2,4-dichloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-ethanone | 0.0094 g, 28% | C(C1=CC=CC=C1)OCC(=O)N1CCC(=CC1)C1=C(C=C(C=C1)Cl)Cl | C20H19Cl2NO2
